US03993643
1-(Phenoxypropyl)-2-[2-(5-nitro-2-furyl)vinyl]imidazole
Using the same general procedure of Example 1, the captioned compound was prepared using 3-phenoxypropyl bromide and 2-[2-(5-nitro-2-furyl)vinyl]imidazole. The resulting orange product after recrystallization from ethanol-water melted at 85°-86°.

reactant | 3-phenoxypropyl bromide | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | 2-[2-(5-nitro-2-furyl)vinyl]imidazole | [N+](=O)([O-])C1=CC=C(O1)C=CC=1NC=CN1 | C9H7N3O3
product | 1-(Phenoxypropyl)-2-[2-(5-nitro-2-furyl)vinyl]imidazole | O(C1=CC=CC=C1)CCCN1C(=NC=C1)C=CC=1OC(=CC1)[N+](=O)[O-] | C18H17N3O4
